US05138069
Methyl 2-butyl-4-chloro-1-(4-aminobenzyl)-imidazole-5-acetate
A mixture of methyl 2-butyl-4-chloro-1-(4-nitrobenzyl)imidazole-5-acetate (5.00 g, 13.7 mmol, 1 eq), iron (2.67 g, 47.8 mmol, 3.5 eq), glacial acetic acid (5.47 mL, 95.3 mmol, 7 eq), and methanol (250 mL) was refluxed for 5.5 hours. The solvent was removed by rotary evaporation. The residue was diluted with water (300 mL) and extracted five times with 300 mL portions of ethyl acetate. The organic layers were dried and concentrated. The residue was flash chromatographed in 75:25 hexane/ethyl acetate over silica gel to give 4.53 g of a golden yellow oil which crystallized after standing for several days. NMR (200 MHz, CDCl3) δ 6.72 (d, 2H, J=7 Hz); 6.60 (d, 2H, J=7 Hz); 4.99 (s, 2H); 3.61 (s, 3H); 3.47 (s, 2H); 2.60 (t, 2H, J=7 Hz); 1.68 (m, 2H); 1.35 (m, 2H); 0.86 (t, 3H, J=7 Hz). Mass spectrum shows M+=355/337. Mass Calcd. for C17H22N3O2Cl: 335.1400. Found: 335.1407.

reactant | methyl 2-butyl-4-chloro-1-(4-nitrobenzyl)imidazole-5-acetate | 13.7 mmol, 5.00 g, 1 eq | C(CCC)C=1N(C(=C(N1)Cl)CC(=O)OC)CC1=CC=C(C=C1)[N+](=O)[O-] | C17H20ClN3O4
reactant | acetic acid | 95.3 mmol, 5.47 mL, 7 eq | C(C)(=O)O | C2H4O2
catalyst | iron | 47.8 mmol, 2.67 g, 3.5 eq | [Fe] | Fe
solvent | methanol | 250 mL | CO | CH4O
product | Methyl 2-butyl-4-chloro-1-(4-aminobenzyl)-imidazole-5-acetate | 4.53 g | C(CCC)C=1N(C(=C(N1)Cl)CC(=O)OC)CC1=CC=C(C=C1)N | C17H22ClN3O2
